.option method=key

.param
+  sw_stat_global = 0
+  sw_stat_mismatch = 0
+ mc_skew = 3
+ res_mc_skew = 3
+ cap_mc_skew = 3
+  fnoicor = 0

.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.option wnflag=1

.include ./gf180mcu_fd_sc_mcu7t5v0__nand2_2.spice

VDD VDD 0 5V
VSS VSS 0 0V

R111 VPW VSS 10
R112 VNW VDD 10

Va A1 VSS PULSE( 0 5 0 0.1ns 0.1ns 5ns 10ns )
Vb A2 VSS PULSE( 0 5 0 0.1ns 0.1ns 10ns 20ns )

.tran 1n 50n

.control
run
plot v(ZN)
.endc
.end
